US08114878B2
2.2.4 (R)-1-amino-1-(4-fluoro-phenyl)-2-methyl-propan-2-ol
5.6 g of 2,2,2-trifluoro-N—[(R)-1-(4-fluoro-phenyl)-2-hydroxy-2-methyl-propyl]-acetamide and 2.27 g KOH are suspended in 61.1 ml of methanol. The reaction mixture is stirred for 20 hours at 60° C. and then combined with water and dichloromethane, the organic phase is dried and evaporated to dryness. 3.2 g of the product are obtained as an oil.

reactant | 2,2,2-trifluoro-N—[(R)-1-(4-fluoro-phenyl)-2-hydroxy-2-methyl-propyl]-acetamide | 5.6 g | FC(C(=O)N[C@@H](C(C)(C)O)C1=CC=C(C=C1)F)(F)F | C12H13F4NO2
reactant | KOH | 2.27 g | [OH-].[K+]
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 61.1 ml | CO | CH4O
product | (R)-1-amino-1-(4-fluoro-phenyl)-2-methyl-propan-2-ol | 3.2 g | N[C@@H](C(C)(O)C)C1=CC=C(C=C1)F | C10H14FNO
